US04436748
A mixture of 1.5 g of ethyl[ (6,7-dichloro-3-methyl-2-phenylbenzo[b]-thien-5-yl)oxy]acetate in 50 ml of 95% ethanol and 50 ml of 15% aqueous sodium hydroxide is stirred under reflux for 1 hour. The mixture is concentrated under vacuum to dryness. The residue is triturated with water, cooled to 0° and acidified with conc hydrochloric acid. The solid product is extracted exhaustively with a mixture of ethyl ether-ethyl acetate (1:1) and the ether extracts are washed and dried over anhydrous magnesium sulfate. Removal of the solvents under reduced pressure leaves a tan-colored residue which is recrystallized from acetone to give 1.24 g of [(6,7-dichloro-3-methyl-2-phenylbenzo[b]thien-5-yl)oxy]acetic acid as shiny platelets, mp 232°-233° C.

reactant | ethyl[ (6,7-dichloro-3-methyl-2-phenylbenzo[b]-thien-5-yl)oxy]acetate | 1.5 g | C(C)OC(COC1=CC2=C(SC(=C2C)C2=CC=CC=C2)C(=C1Cl)Cl)=O | C19H16Cl2O3S
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 50 ml | [OH-].[Na+]
product | [(6,7-dichloro-3-methyl-2-phenylbenzo[b]thien-5-yl)oxy]acetic acid | 1.24 g | ClC=1C(=CC2=C(SC(=C2C)C2=CC=CC=C2)C1Cl)OCC(=O)O | C17H12Cl2O3S
